US06004959
N,N-Diethyl-2-bromo-5-methoxybenzamide
To a stirred suspension of 2-bromo-5-methoxy benzoic acid (2.31 g, 0.010 mol) and PyBOP (5.20 g, 0.010 mol) in CH2Cl2 (30 mL) add diethylamine (0.951 g, 0.013 mol) at ambient temperature. Warm the solution slightly and observe a brown color change. To the brown solution add diisopropylethylamine (3.83 mL, 0.022 mol) and stir the resulting mixture at ambient temperature overnight. Extract the reaction mixture with H2O (100 mL), 5% HCl (2×100 mL), NaHCO3 (2×100 mL), wash with brine (100 mL), dry (MgSO4), filter and evaporate the filtrate to give a brown oil. Chromatography of the oil eluting with EtOAc-hexane 4:6 gives 2.45 g (90%) of the title compound as a pale yellow liquid, Rf=0.24 EtOAc-hexane 4:6; 1 H NMR (CDCl3) 7.40 (1 H, d), 6.79 (1H, s), 6.77 (1H, d), 3.78 (4H, m), 3.41-3.28 (1H, m), 3.18-3.15 (2H, m), 1.27 (3H, s), 1.08 (3H, s).

reactant | 2-bromo-5-methoxy benzoic acid | 0.010 mol, 2.31 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | PyBOP | 0.010 mol, 5.20 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | diethylamine | 0.013 mol, 0.951 g | C(C)NCC | C4H11N
reactant | diisopropylethylamine | 0.022 mol, 3.83 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N,N-Diethyl-2-bromo-5-methoxybenzamide | 2.45 g, 90% | C(C)N(C(C1=C(C=CC(=C1)OC)Br)=O)CC | C12H16BrNO2
